US07087605B2
7-Bicyclo[2.2.1]hept-5-en-2-yl-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.58 mmol) crude N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]bicyclo[2.2.1]hept-5-ene-2-carboxamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The isomers are purified by chromatography (preparative HPLC).

reactant | N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]bicyclo[2.2.1]hept-5-ene-2-carboxamide | 0.58 mmol, 200 mg | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1C2C=CC(C1)C2 | C19H26N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Bicyclo[2.2.1]hept-5-en-2-yl-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C12C(CC(C=C1)C2)C2=NC(=C1C(NC(=NN12)C1CCCC1)=O)CC | C19H24N4O
